US06211234B1
A solution of triphenylphosphine (1.13 g) in tetrahydrofuran (30 mL) is treated with diisopropyl azodicarboxylate (0.84 mL) at 0-5° C. The suspension is then treated with methyl (RS)-5-(3-hydroxyphenyl)-5-oxo-4-(2-methylphenyl)pentanoate (671 mg) and 3-methyl-2-thienylmethanol (275 mg), and stirred at 5° C. for 15 minutes. The solution is evaporated and the residue is subjected to flash chromatography on silica gel, eluting with a mixture of pentane and ethyl acetate (5:1 v/v), to give methyl (RS)-5-[3-(3-methyl-2-thienylmethoxy)phenyl]-4-(2-methylphenyl)-5-oxopentanoate (350 mg), in the form of an oil. [NMR(CDCl3):- 2.0-2.5(4H,m), 2.25(3H,s),2.5(3H,s), 3.65(3H,s), 4.8(1H,m),5.1 (2H,q),6.85-7.5(10H)].

reactant | triphenylphosphine | 1.13 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.84 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | methyl (RS)-5-(3-hydroxyphenyl)-5-oxo-4-(2-methylphenyl)pentanoate | 671 mg | OC=1C=C(C=CC1)C(C(CCC(=O)OC)C1=C(C=CC=C1)C)=O | C19H20O4
reactant | 3-methyl-2-thienylmethanol | 275 mg | CC1=C(SC=C1)CO | C6H8OS
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | methyl (RS)-5-[3-(3-methyl-2-thienylmethoxy)phenyl]-4-(2-methylphenyl)-5-oxopentanoate | 350 mg | CC1=C(SC=C1)COC=1C=C(C=CC1)C(C(CCC(=O)OC)C1=C(C=CC=C1)C)=O | C25H26O4S
